US07951818B2
A.1: Pivaloyldiaminopyridine
To a solution of 2,6-diaminopyridine (10 g, 91.743 mmol) and triethylamine (11.14 g, 110.091 mmol, 1.2 equiv.) in DCM (100 mL) at 0° C. is added dropwise a solution of pivaloyl chloride (12.11 g, 100.917 mmol, 1.1 equiv.) in DCM (50 mL) over 2 hours. After completion of the addition the mixture is allowed to warm to room temperature over 30 minutes, at which point LC-MS shows full conversion to the desired material. The mixture is filtered to remove the triethylammonium chloride, and the solvent is removed under vacuum to afford a solid that is not processed further.

reactant | 2,6-diaminopyridine | 91.743 mmol, 10 g | NC1=NC(=CC=C1)N | C5H7N3
reactant | triethylamine | 110.091 mmol, 11.14 g, 1.2 equiv. | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 100.917 mmol, 12.11 g, 1.1 equiv. | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | Pivaloyldiaminopyridine | C(C(C)(C)C)(=O)C1=C(C(=NC=C1)N)N | C10H15N3O
